US05011947
3,3-Bis(4-fluorophenyl)-2-[2-methyl-1-(1-methylethyl)propyl]-propenol
Diisobutylaluminum hydride (33 mL of 1M solution, 33 mmol) was added to a solution of ethyl 3,3-bis(4-fluorophenyl)-2-[2-methyl-1-(1-methylethyl)-propyl]propenoate (2.5 g, 6.5 mmole) in methylene chloride at -70° C. After stirring for 5 hours, the temperature had risen to -20° C. and the reaction was quenched with 2N hydrochloric acid. The organic layer was separated, dried with magnesium sulfate and concentrated in vacuo to give 2.1 g of the title compound as an oil. MS(CI): m/e =344 for M+ of C22H26F2O.

reactant | Diisobutylaluminum hydride | 33 mmol, 1M, 33 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 3,3-bis(4-fluorophenyl)-2-[2-methyl-1-(1-methylethyl)-propyl]propenoate | 6.5 mmole, 2.5 g | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C(C(C)C)C(C)C)C1=CC=C(C=C1)F | C24H28F2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,3-Bis(4-fluorophenyl)-2-[2-methyl-1-(1-methylethyl)propyl]-propenol | 2.1 g | FC1=CC=C(C=C1)C(C(=CO)C(C(C)C)C(C)C)C1=CC=C(C=C1)F | C22H26F2O
